US05663297
By coupling Z-Gly-OSu and H-Asp(OtBu)-Val-OtBu there is obtained Z-Gly-Asp(OtBu)-Val-OtBu, m.p.132° C. (ethyl acetate), yield: 87%.

reactant | Z-Gly-OSu | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H14N2O6
reactant | H-Asp(OtBu)-Val-OtBu | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C | C17H32N2O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Gly-Asp(OtBu)-Val-OtBu | yield: 87% | N(CC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H41N3O8
